US07544835B2
3-[3-(2-{[(2,4-Difluoroanilino)carbonyl]oxy}ethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 2,4-difluorophenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C17H26O5
reactant | 2,4-difluorophenylisocyanate | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
product | 3-[3-(2-{[(2,4-Difluoroanilino)carbonyl]oxy}ethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid | FC1=C(NC(=O)OCCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)F | C22H25F2NO6
